US05252538
Pyrido[2,3-b]pyrazine-6,7-dicarboxylic acid, diethyl ester
Diethyl oxalacetate, (4.7 g, 0.025 mol) and piperidine (1.66 g, 1.93 mL) are added to 3-aminopyrazine-2-carboxaldehyde (2.4 g, 0.0195 mol) dissolved in 250 mL of toluene. After the reaction mixture is refluxed for two hours, the toluene is removed under reduced pressure to give a dark red oily residue. The product is purified by column chromatography on silica gel (hexane:EtOAc, 4:1), affording 3.1 g (58% yield), of the crude desired product. Crystallization from ether-hexane (4:1) gives analytically pure compound 1.5 g (28%) having a melting point 83°-85° C.

reactant | Diethyl oxalacetate | 0.025 mol, 4.7 g | C(CC(=O)C(=O)OCC)(=O)OCC | C8H12O5
reactant | piperidine | 1.93 mL, 1.66 g | N1CCCCC1 | C5H11N
reactant | 3-aminopyrazine-2-carboxaldehyde | 0.0195 mol, 2.4 g | NC=1C(=NC=CN1)C=O | C5H5N3O
solvent | toluene | 250 mL | C1(=CC=CC=C1)C | C7H8
product | Pyrido[2,3-b]pyrazine-6,7-dicarboxylic acid, diethyl ester | 1.5 g, 28% | N1=C2C(=NC=C1)N=C(C(=C2)C(=O)OCC)C(=O)OCC | C13H13N3O4
